US06831080B2
Preparation of [(S)-3-(2-fluoro-phenyl)-N-[1-(3-morpholin-4-yl-phenyl)-ethyl]-acrylamide
Mixture of (S)-1-(3-morpholin-4-yl-phenyl)-ethylamine hydrochloride, Preparation 21 (50 mg, 0.21 mmol), 2-fluorocinnamic acid (37 mg, 0.23 mmol), EDC (79 mg, 0.41 mmol), DMAP (25 mg, 0.21 mmol), triethylamine (0.11 ml, 0.82 mmol) in dichloromethane (1 mL) was stirred at room temperature for 10 hours. The reaction mixture was concentrated under vacuum and purified by filtering through 2 g silica-gel syringe with 80% ethyl acetate/hexanes. The filtrate was concentrated under vacuum to provide the title compound as a white solid.

reactant | (S)-1-(3-morpholin-4-yl-phenyl)-ethylamine hydrochloride | Cl.N1(CCOCC1)C=1C=C(C=CC1)[C@H](C)N
reactant | 2-fluorocinnamic acid | 0.23 mmol, 37 mg | FC1=C(C=CC(=O)O)C=CC=C1 | C9H7FO2
reactant | EDC | 0.41 mmol, 79 mg
reactant | triethylamine | 0.82 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.21 mmol, 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (S)-3-(2-fluoro-phenyl)-N-[1-(3-morpholin-4-yl-phenyl)-ethyl]-acrylamide | FC1=C(C=CC=C1)C=CC(=O)N[C@@H](C)C1=CC(=CC=C1)N1CCOCC1 | C21H23FN2O2
